US05668271
10.0 of dihydroxyacetone dimer and 14.7 g of carbazi acid tert-butyl ester were dissolved in 500 ml of ethanol, and the solution was stirred at room temperature for 15 hours. The reaction solution was concentrated under reduced pressure, and the residue was recrystallized from ethyl acetate to give 18.67 g of 2-(tert-butyloxycarbonyl)hydrazono-1,3-propanediol as a colorless solid.

reactant | dihydroxyacetone dimer | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | carbazi acid tert-butyl ester | 14.7 g | C(C)(C)(C)OC(NN)=O | C5H12N2O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(tert-butyloxycarbonyl)hydrazono-1,3-propanediol | 18.67 g | C(C)(C)(C)OC(=O)NN=C(CCO)O | C8H16N2O4
